US06750252B2
Ethyl 3-[3-benzyl-4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethoxy)phenyl]-2-ethoxypropanoate
Ethyl 3-(3-benzyl-4-hydroxyphenyl)-2-ethoxypropanoate (2 g, 6 mmol), 2-{4-[(tert-butoxycarbonyl}amino]phenyl}ethyl 4-methylbenzenesulfonate (3.6 g, 9 mmol); was solved in 2-butanone (30 ml). PEG-400 (0.8 g) and potassium carbonate (2.6 g, 19 mmol) was added and the mixture was refluxed for 8 h. Water was added, the organic layer separated and evaporated. The residue was purified on silica gel using isooctane/ethylacetate 2:1 which yielded 0.38 g (0.7 mmol) of the title product.

reactant | Ethyl 3-(3-benzyl-4-hydroxyphenyl)-2-ethoxypropanoate | 6 mmol, 2 g | C(C1=CC=CC=C1)C=1C=C(C=CC1O)CC(C(=O)OCC)OCC | C20H24O4
reactant | 2-{4-[(tert-butoxycarbonyl}amino]phenyl}ethyl 4-methylbenzenesulfonate | 9 mmol, 3.6 g | CC1=CC=C(C=C1)S(=O)(=O)OCCC1=CC=C(C=C1)NC(=O)OC(C)(C)C | C20H25NO5S
reactant | potassium carbonate | 19 mmol, 2.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | 2-butanone | 30 ml | CC(CC)=O | C4H8O
product | Ethyl 3-[3-benzyl-4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethoxy)phenyl]-2-ethoxypropanoate | 0.7 mmol, 0.38 g | C(C1=CC=CC=C1)C=1C=C(C=CC1OCCC1=CC=C(C=C1)NC(=O)OC(C)(C)C)CC(C(=O)OCC)OCC | C33H41NO6
